US08019550B2
The synthesis of I, J analogs of the benzodiazepines scaffold is illustrated in the following pathway. In both approaches chiral amino acid are introduced into the synthesis raising the diversity around the α carbon. Thieno diazepine I is prepared from 2-amino-3-acyl)-thiophenes 5, which reacts with pre formed Boc amino acid chloride (amino acid, BTC, collidine, THF or DCM). Deprotection of 8 (4N HCl) with concomitant ring closure leads to 2-oxothienodiazepine I. Thiophenodiazepine J can be prepared starting from 2-amino-3-carboxy-thiophenes A, which after pre activation to the thienooxzaine dione (BTC, collidine, THF or DCM)) reacts with amino ketone to obtain 9, ring closure afford 5-oxothienodiazepine.

reactant | HCl | 4N | Cl | ClH
reactant | Thiophenodiazepine | N1=NC=CC=C2C1=CCS2 | C7H6N2S
reactant | collidine | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | amino ketone | NC(=O)N | CH4N2O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | 5-oxothienodiazepine | O=C1C=CN=NC2=C1SC=C2 | C7H4N2OS
